US09212164B2
Step 1. (E)-1-(4-(4,4,4-Trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)-2-(trifluoromethyl)benzamido)cyclopropanecarboxylic acid
A 250 mL round bottomed (rb) flask equipped with a magnetic stir bar, temperature probe and reflux condenser was charged with (E)-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)-2-(trifluoromethyl)benzoic acid (5.3 g, 11.10 mmol) and dichloroethane (DCE) (40 mL). Thionyl chloride (1.620 mL, 22.19 mmol) was added neat in one portion and the resulting reaction mixture was heated at reflux for 2.5 h. After which time the reaction mixture was allowed to cool and then concentrated to give the crude acid chloride which was used without further purification. The acid chloride intermediate was taken up in anhydrous THF (56 mL) and was added to a 250 mL flask equipped with a magnetic stir bar, a temperature probe and a reflux condenser. While stirring, dodecyltrimethylammonium bromide (0.03 g, 0.111 mmol), sodium carbonate (0.932 g, 11.10 mmol) and 1-aminocyclopropanecarboxylic acid (1.6 g, 12.0 mmol) were added in this order and stirred at reflux overnight. The reaction was allowed to cool and the white solid residue was filtered via vacuum filtration. The filtrate was concentrated to afford the title compound as a light brown solid (4.8 g, 77%). This material was used without further purification.

reactant | (E)-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)-2-(trifluoromethyl)benzoic acid | 11.10 mmol, 5.3 g | FC(C(/C=C/C1=CC(=C(C(=O)O)C=C1)C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)(F)F | C18H9Cl3F6O2
reactant | Thionyl chloride | 22.19 mmol, 1.620 mL | S(=O)(Cl)Cl | Cl2OS
reactant | sodium carbonate | 11.10 mmol, 0.932 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-aminocyclopropanecarboxylic acid | 12.0 mmol, 1.6 g | NC1(CC1)C(=O)O | C4H7NO2
catalyst | dodecyltrimethylammonium bromide | 0.111 mmol, 0.03 g | [Br-].C(CCCCCCCCCCC)[N+](C)(C)C
solvent | dichloroethane | 40 mL | ClC(C)Cl | C2H4Cl2
product | (E)-1-(4-(4,4,4-Trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)-2-(trifluoromethyl)benzamido)cyclopropanecarboxylic acid | 4.8 g, 77% | FC(C(/C=C/C1=CC(=C(C(=O)NC2(CC2)C(=O)O)C=C1)C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)(F)F | C22H14Cl3F6NO3
